US04592866
One of the intermediates, (S)-1-methyl-3-pyrrolidinol, was synthetized with retention of optical purity as shown in Chart IX starting with (S)-malic acid. The (S)-1-methyl-3-pyrrolidinol was shown to be dextrorotatory. As an alternative method of obtaining the resolved isomers of 1-methyl-3-pyrrolidinol, the racemic mixture was treated with (2S, 3S)-tartaric acid in methanol. The resulting crystals, after one recrystallization, were converted to the base. This base was the dextrorotatory (S)-1-methyl-3-pyrrolidinol identical to that produced from (S)-malic acid.

reactant | (2S, 3S)-tartaric acid | [C@H]([C@@H](C(=O)O)O)(C(=O)O)O | C4H6O6
solvent | methanol | CO | CH4O
product | (S)-malic acid | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
